US04056544
175 ml of cyclohexylamine are added over the course of one hour to 300 g of 67% strength 1,8-dinitroanthraquinone in 1,200 ml of nitrobenzene at 175°-180°, the mixture is stirred for a further 15 minutes at the same temperature and then overnight until cold and the product is filtered off and washed with 200 ml of nitrobenzene and finally with a large amount of methanol until free of nitrobenzene. 187 g of 8-nitro-1-cyclohexylamino-anthraquinone of very good quality are obtained.

reactant | cyclohexylamine | 175 ml | C1(CCCCC1)N | C6H13N
reactant | 1,8-dinitroanthraquinone | [N+](=O)([O-])C1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)[N+](=O)[O-])=O | C14H6N2O6
solvent | nitrobenzene | 1,200 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 8-nitro-1-cyclohexylamino-anthraquinone | 187 g | [N+](=O)([O-])C=1C=CC=C2C(C=3C=CC=C(C3C(C12)=O)NC1CCCCC1)=O | C20H18N2O4
